US06528525B1
Methyl 2-benzyloxy-3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]propionate
In a similar manner to that described in Reference example 1(c), a reaction was carried out using methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate (398 mg), which is obtained in a similar manner to that described in Reference example 39(a), benzylbromide (0.28 ml), hydride (55% suspension in oil, 168 mg) and tetrabutylammonium iodide (43 mg) and the reaction mixture was treated to afford the desired compound (133 mg) as a colorless oil.

reactant | methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate | 398 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OC)O | C17H25NO6
reactant | benzylbromide | 0.28 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydride | 168 mg | [H-]
catalyst | tetrabutylammonium iodide | 43 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | Methyl 2-benzyloxy-3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]propionate | 133 mg | C(C1=CC=CC=C1)OC(C(=O)OC)CC1=CC=C(C=C1)OCCNC(=O)OC(C)(C)C | C24H31NO6
